US09163011B2
c) (R)-2-Methyl-propane-2-sulfinic acid [1-(6-bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-eth-(E)-ylidene]-amide
A mixture of titantetraethoxide (4.26 g, 18.69 mmol), (R)-tert.-butylsulfinamide (1.246 g, 10.28 mmol) and 1-(6-bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-ethanone (3.45 g, 9.34 mmol, 90% pure) in THF (25 ml) was refluxed under a nitrogen atmosphere for 6 hours. The cold reaction mixture was poured onto icecold brine (200 ml) with gentle stirring. The precipitate was filtered through a pad of hyflo and washed with ethyl acetate. The filtrate was diluted with ethyl acetate and washed with brine, dried over sodium sulfate, filtered and evaporated. The crude yellow oil (4.55 g) was chromatographed over silica gel (cyclohexane/ethyl acetate 94:6) to give the title compound as a yellow oil. 3.35 g (82% yield).

reactant | (R)-tert.-butylsulfinamide | 10.28 mmol, 1.246 g | C(C)(C)(C)[S@@](=O)N | C4H11NOS
reactant | 1-(6-bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-ethanone | 9.34 mmol, 3.45 g | BrC1=CC(=C(C(=N1)C(C)=O)F)[Si](CC)(CC)CC | C13H19BrFNOSi
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | brine | 200 ml | [Cl-].[Na+].O
product | (R)-2-Methyl-propane-2-sulfinic acid [1-(6-bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-eth-(E)-ylidene]-amide | 82% yield | BrC1=CC(=C(C(=N1)\C(\C)=N\[S@](=O)C(C)(C)C)F)[Si](CC)(CC)CC | C17H28BrFN2OSSi
